US05834506
Ethyl-sulfamic acid 5-tert-butyl-4-{6,6-bis-[2-(4-amino-phenyl)-ethyl]-4-hydroxy-2-oxo-5,6-dihydro-2H-pyran-3-ylsulfanyl}2-methyl-phenyl ester
To a round bottom flask equipped with a magnetic stirrer were added toluene-4-thiosulfonic acid S-(2-tert-butyl-4-ethylsulfamoyloxy-5-methyl-phenyl) ester (prepared in Example VVV; 0.218 g, 0.470 mmol), (1,1-dimethylethyl)[(3,6-dihydro-4-hydroxy-6-oxo-2H-pyran-2,2-diyl)bis[2,1-ethanediyl-(4,1-phenylene)]-biscarbamate (prepared in Example OO; 0.200 g, 0.380 mmol), K2CO3 (0.260 g, 1.88 mmol), and DMF (8 mL), as described in General Method 9. The reaction was stirred at room temperature for 3 hours and then worked up in the usual fashion. The residue was submitted to flash chromatography (100% EtOAc). The product form chromatography was taken up in EtOAc, triturated with hexane, filtered, and then taken up in CH2Cl2 (20 mL). Gaseous HCl was bubbled into this solution for 30 minutes. The solids that formed were filtered, washed with Et2O and dried under high vacuum to yield the title compound, m.p. 194° C. 1H NMR (DMSO-d6) δ 1.14 (t, 3 H), 1.49 (s, 9 H), 1.88 (s, 3 H), 2.09 (br m, 4 H), 2.70 (br m, 4 H), 3.12 (s, 2 H) 3.13 (m, 2 H), 6.79 (s, 1 H), 7.11 (s, 1 H), 7.27 (d, 4 H), 7.33 (d, 4 H), 8.40 (t, 1 H).

reactant | toluene-4-thiosulfonic acid S-(2-tert-butyl-4-ethylsulfamoyloxy-5-methyl-phenyl) ester | 0.470 mmol, 0.218 g | C(C)(C)(C)C1=C(C=C(C(=C1)OS(NCC)(=O)=O)C)SS(=O)(=O)C1=CC=C(C=C1)C | C20H27NO5S3
reactant | (3,6-dihydro-4-hydroxy-6-oxo-2H-pyran-2,2-diyl)bis[2,1-ethanediyl-(4,1-phenylene)]-biscarbamate | 0.380 mmol, 0.200 g | OC=1CC(OC(C1)=O)(CCC1=CC=C(C=C1)NC([O-])=O)CCC1=CC=C(C=C1)NC([O-])=O
reactant | K2CO3 | 1.88 mmol, 0.260 g | C(=O)([O-])[O-].[K+].[K+]
reactant | DMF | 8 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | Ethyl-sulfamic acid 5-tert-butyl-4-{6,6-bis-[2-(4-amino-phenyl)-ethyl]-4-hydroxy-2-oxo-5,6-dihydro-2H-pyran-3-ylsulfanyl}2-methyl-phenyl ester | C(C)(C)(C)C=1C(=CC(=C(C1)OS(NCC)(=O)=O)C)SC=1C(OC(CC1O)(CCC1=CC=C(C=C1)N)CCC1=CC=C(C=C1)N)=O | C34H43N3O6S2
